US09328124B2
tert-Butyl N-allyl-N-[2-oxo-2-(3-pyridyl)ethyl]carbamate
2-Bromo-1-(3-pyridyl)ethanone hydrobromide (9.35 g, 21.96 mmol) is added portion wise over 5 minutes to a stirred solution of 2-propen-1-amine (1.82 mL, 24.16 mmol) and diisopropylethylamine (7.66 mL, 43.93 mmol) in tetrahydrofuran (270 mL) at 0° C. The reaction mixture is stirred for 1 hour 40 minutes at 0° C. Di-t-butyldicarbonate (9.40 mL, 41.73 mmol) in tetrahydrofuran (10 mL) is added and the reaction is continued at 0° C. for 1 hour 40 minutes. The reaction is quenched with saturated sodium hydrogen carbonate (120 mL). Dichloromethane (300 mL) is added and the phases are separated. The aqueous phase is re-extracted with dichloromethane (300 mL). The combined organic phases are dried over magnesium sulfate, filtered, and concentrated under vacuum. The crude product is purified by silica gel chromatography using a 0-5% gradient of acetone in dichloromethane followed by a 5-10% gradient of acetone in dichloromethane then with 100% acetone to give the title compound (1.15 g, 19%). ES/MS (m/e): 277 (M+1).

reactant | 2-Bromo-1-(3-pyridyl)ethanone hydrobromide | 21.96 mmol, 9.35 g | Br.BrCC(=O)C=1C=NC=CC1
reactant | 2-propen-1-amine | 24.16 mmol, 1.82 mL | C(C=C)N | C3H7N
reactant | diisopropylethylamine | 43.93 mmol, 7.66 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Di-t-butyldicarbonate | 41.73 mmol, 9.40 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 270 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-Butyl N-allyl-N-[2-oxo-2-(3-pyridyl)ethyl]carbamate | 1.15 g, 19% | C(C=C)N(C(OC(C)(C)C)=O)CC(C=1C=NC=CC1)=O | C15H20N2O3
